US05189040
A mixture of 2.4 g (10 mmol) of 1,3-dimethyl-4-(2-chlorophenylthio)-5-hydroxypyrazole, 1.5 g (10 mmol) of 2,4-dichloropyrimidine and 1.5 g (11 mmol) of potassium carbonate was refluxed for 1 hour in 10 ml of acetonitrile. After completing the reaction, the reaction mixture was poured into water, extracted with ethyl acetate and dried. Then the organic layer was concentrated. The residue was purified by means of silica gel column chromatography (developing solution: ethyl acetate-hexane (3:1 v/v)) to give 2.8 g of 1,3-dimethyl-4-(2-chlorophenylthio)-5-(2-chloropyrimidine-4-yloxy)pyrazole

reactant | 1,3-dimethyl-4-(2-chlorophenylthio)-5-hydroxypyrazole | 10 mmol, 2.4 g | CN1N=C(C(=C1O)SC1=C(C=CC=C1)Cl)C | C11H11ClN2OS
reactant | 2,4-dichloropyrimidine | 10 mmol, 1.5 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | potassium carbonate | 11 mmol, 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1,3-dimethyl-4-(2-chlorophenylthio)-5-(2-chloropyrimidine-4-yloxy)pyrazole | 2.8 g | CN1N=C(C(=C1OC1=NC(=NC=C1)Cl)SC1=C(C=CC=C1)Cl)C | C15H12Cl2N4OS
